US04317915
A solution of 94.0 g (0.465 mole) of 4-carbomethoxy-3-keto-2-propyl-tetrahydrothiophene in 250 ml of dry pyridine was treated with 40.0 (0.576 mole) of hydroxylamine hydrochloride at 25°. The reaction was stirred overnight at room temperature. The solvent was evaporated and the residue was partitioned between 1 N HCl and methylene chloride. The organic phase was dried over sodium sulfate and evaporated to afford 100 g (0.461 mole, 99%) of pure 4-carbomethoxy-3-keto-2-propyl-tetrahydrothiophene oxime as a colorless oil.

reactant | 4-carbomethoxy-3-keto-2-propyl-tetrahydrothiophene | 0.465 mole, 94.0 g | C(=O)(OC)C1C(C(SC1)CCC)=O | C9H14O3S
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 4-carbomethoxy-3-keto-2-propyl-tetrahydrothiophene oxime | 0.461 mole, 100 g, 99% | C(=O)(OC)C1C(C(SC1)CCC)=NO | C9H15NO3S
